US06894061B2
4-[(8-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol
A solution of ethyl 4-[(8-fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenyl carbonate (0.45 g, 1.02 mmol) in methanol (5.0 mL) was treated with a 1 N sodium hydroxide (5.1 mL) solution, and heated at 75° C. for 14 hours. After cooling to room temperature, the methanol was evaporated in vacuo. The resulting aqueous mixture was acidified with a 1 N hydrochloric acid solution, diluted with a saturated, aqueous, sodium chloride solution (100 mL), and extracted with dichloromethane (5×15 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to a white solid. The solid was purified by filtration through a short column of silica gel, eluting with ethyl acetate, to yield the title compound as a homogeneous, white, crystalline, solid (0.34 g, 89%), m.p. 188° C.;

reactant | ethyl 4-[(8-fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenyl carbonate | 1.02 mmol, 0.45 g | C(OCC)(OC1=CC=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=C(C=C2C1C)F)=O | C23H20FNO5S
reactant | sodium hydroxide | 1 N, 5.1 mL | [OH-].[Na+]
solvent | methanol | 5.0 mL | CO | CH4O
product | 4-[(8-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]phenol | FC=1C=C2C(N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC=C(C=C1)O)C | C20H16FNO3S
